US08304425B2
A solution of 2-azido-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone (4.70 g, 19.58 mmol), (BOC)2O (4.48 g, 20.56 mmol), Pd/C (10%) in THF (30 mL)/MeOH (20 mL) was shaken under H2 (60 psi) overnight. The mixture was filtered through a pad of Celite and concentrated to give a residue that was purified by silica gel column chromatography (eluent, 2/1 hex/EtOAc). [2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester was obtained as a white solid (2.82 g, 46%). M.p.=175-177° C.; 1H NMR (400 MHz, DMSO-d6) δ: 8.35 (s, 1H), 7.86 (d, J=8.0 Hz, 1H), 7.12 (t, J=7.6 Hz, 1H), 6.99 (m, 2H), 4.27 (d, J=6.0 Hz, 2H), 4.23 (t, J=6.0 Hz, 2H), 2.94 (t, J=6.4 Hz, 2H), 2.14 (m, 2H), 1.41 (s, 9H). LCMS: m/e 315.21 [M+H], 259.17 [M-56].

reactant | 2-azido-1-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-ethanone | 19.58 mmol, 4.70 g | N(=[N+]=[N-])CC(=O)C1=CN2CCCC3=CC=CC1=C23 | C13H12N4O
reactant | (BOC)2O | 20.56 mmol, 4.48 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | MeOH | 20 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | [2-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-2-oxo-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(=O)C1=CN2CCCC3=CC=CC1=C23)=O | C18H22N2O3
